US06638929B2
A mixture of 8-benzyloxy-7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile (11.4 g, 31.9 mmol) and phosphorus oxychloride (147 g, 959 mmol) is heated under reflux for one hour. After cooling to room temperature, the reaction mixture is evaporated under vacuum to remove the volatiles. The residue is carefully slurried in cold saturated aqueous sodium bicarbonate solution (500 mL). The solids are collected by filtration, washed thoroughly with saturated aqueous sodium bicarbonate solution and water and dried to give 11.7 grams of crude 8-(benzyloxy)-4-chloro-7-methoxybenzo[g]quinoline-3-carbonitrile as a light orange solid.

reactant | 8-benzyloxy-7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 31.9 mmol, 11.4 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C=C1OC | C22H16N2O3
reactant | phosphorus oxychloride | 959 mmol, 147 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-(benzyloxy)-4-chloro-7-methoxybenzo[g]quinoline-3-carbonitrile | 11.7 grams | C(C1=CC=CC=C1)OC1=CC2=C(C=C3C(=C(C=NC3=C2)C#N)Cl)C=C1OC | C22H15ClN2O2
